US09216980B2
Preparation of 1-Methyl-5-(trimethylstannyl)-1H-1,2,3-triazole
To a stirred solution of 1-methyl-1H-1,2,3-triazole (0.5 g, 6.0 mmol) in anhydrous tetrahydrofuran (50 mL) at −78° C. under an atmosphere of nitrogen was added n-butyllithium (2.5M solution in hexanes, 2.6 mL, 6.6 mmol) dropwise over ten minutes. On complete addition the reaction was allowed to warm to −30° C. and stirred for 2 h. A solution of chlorotrimethylstannane (1.3 g, 6.6 mmol) in tetrahydrofuran (2 mL) was added dropwise over 10 minutes then the reaction mixture was allowed to warm to room temperature over 2 h. The reaction was quenched by the addition of saturated ammonium chloride solution (5 mL) then diluted with water (20 mL). The solvent was evaporated in vacuo and the aqueous phase extracted with ethyl acetate (2×30 mL). The combined organic layer was dried over sodium sulfate, filtered and concentrated to afford a pale yellow oil (1.4 g, 90%). 1H NMR (DMSO-D6, 400 MHz): 7.61 (s, 1H), 4.04 (s, 3H), 0.40 (s, 9H).

reactant | 1-methyl-1H-1,2,3-triazole | 6.0 mmol, 0.5 g | CN1N=NC=C1 | C3H5N3
reactant | n-butyllithium | 6.6 mmol, 2.5M, 2.6 mL | C(CCC)[Li]
reactant | chlorotrimethylstannane | 6.6 mmol, 1.3 g | Cl[Sn](C)(C)C
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 1-Methyl-5-(trimethylstannyl)-1H-1,2,3-triazole | 1.4 g, 90% | CN1N=NC=C1[Sn](C)(C)C | InChI=1S/C3H4N3.3CH3.Sn/c1-6-3-2-4-5-6;;;;/h2H,1H3;3*1H3;
